US04150223
Disodium 7β-(2-furylacetamido)-3-(N-methyltetrazolylthiomethyl)-3-cephem-4-phosphonate
To a solution of 10 mmoles 7β-amino-3-(N-methyltetrazolylthiomethyl)-3-cephem-4-phosphonate in 100 ml. water and 100 ml. acetone containing 5 g. NaHCO3 is added 20 mmoles 2-furylacetyl chloride in 40 ml acetone at 0° C. After 1 hr. stirring at 0° and 2 hrs at 25° the acetone is pumped off in vacuo and the aqueous solution added to 100 ml. water and 200 ml. EtOAc. The pH is adjusted to 2 with HCl and the ethyl acetate layer separated, and evaporated. The residue is taken up in 50 ml water containing 1.6 g. NaHCO3 and lyophilized, providing the title compound.

reactant | 7β-amino-3-(N-methyltetrazolylthiomethyl)-3-cephem-4-phosphonate | 10 mmoles | N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)P([O-])(=O)[O-])C1=O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | 2-furylacetyl chloride | 20 mmoles | O1C(=CC=C1)CC(=O)Cl | C6H5ClO2
reactant | HCl | Cl | ClH
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | acetone | 5 g | CC(=O)C | C3H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | Disodium 7β-(2-furylacetamido)-3-(N-methyltetrazolylthiomethyl)-3-cephem-4-phosphonate | O1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)P([O-])(=O)[O-])C1=O.[Na+].[Na+] | InChI=1S/C15H17N6O6PS2.2Na/c1-20-15(17-18-19-20)30-7-8-6-29-14-11(12(23)21(14)13(8)28(24,25)26)16-10(22)5-9-3-2-4-27-9;;/h2-4,11,14H,5-7H2,1H3,(H,16,22)(H2,24,25,26);;/q;2*+1/p-2/t11-,14-;;/m1../s1
